US04618720
In a like manner to Examples 3 and 4, one-half molar equivalent of 1,12-dibromododecane is reacted with one molar equivalent of the sodium salt of diphenylphosphine to produce (C6H5)2P(CH2)12P(C6H5)2, a waxy colorless solid.

reactant | 1,12-dibromododecane | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | sodium | [Na] | Na
reactant | diphenylphosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | (C6H5)2P(CH2)12P(C6H5)2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCCCCCCCCCCP(C1=CC=CC=C1)C1=CC=CC=C1 | C36H44P2
